US09302989B2
N-[4-(1-isobutyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
In a 20 mL scintillation vial were mixed N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide (100 mg, 0.312 mmol), isobutyraldehyde (0.343 mmol), and sodium triacetoxyborohydride (0.43 mmol) in anhydrous dichloroethane (4 ml). The reaction mixture was stirred overnight at room temperature. This mixture was diluted with water and the resulting suspension was stirred again overnight at room temperature. The solid was filtered through a 30 mL plastic disposable Buchner funnel, and the collected solid was washed with water, dried for 2 hours, washed with ether, and dried again to provide the title compound. 1H NMR (400 MHz, DMSO-d6, Temp=90° C.) δ ppm 8.58 (s, 1H), 8.47 (d, J=5.0 Hz, 1H), 8.18 (m, 1H), 7.50 (m, 2H), 7.38 (d, J=5.1 Hz, 1H), 7.30 (m, 2H), 6.03 (m, 1H), 4.80 (m, 4H), 3.06 (m, 2H), 2.61 (t, J=5.6 Hz, 2H), 2.44 (m, 2H), 2.17 (d, J=7.2 Hz, 2H), 1.82 (m, 1H), 0.89 (d, J=6.6 Hz, 6H); MS (ESI(+)) m/e 377 (M+H).

reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | 0.312 mmol, 100 mg | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H20N4O
reactant | isobutyraldehyde | 0.343 mmol | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxyborohydride | 0.43 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | N-[4-(1-isobutyl-1,2,3,6-tetrahydropyridin-4-yl)phenyl]-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | C(C(C)C)N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C23H28N4O
